US05145860
2-Aminomethyl-4,5-bis(4-methoxyphenyl)thiazole hydrochloride (1.00 g) was added to a mixture of dichloromethane and saturated aqueous solution of sodium hydrogencarbonate, and was extracted with dichloromethane. The organic layer was washed with water, and brine, and dried over magnesium sulfate. After filtration, the filtrate was evaporated in vacuo, and resulting residue was dissolved in dimethylformamide (25 ml). To the resulting mixture was added 1-(3-dimethylaminopropyl)-3ethylcarbodiimide hydrochloride (0.64 g) and 3-pyridylacetic acid hydrochloride (0.52 g), and stirred at ambient temperature for 2 hours and stirred at 60° C. for 5 hours. After allowing to cool to ambient temperature, the mixture was poured into water, and extracted with ethyl acetate. The organic layer was washed with saturated aqueous solution of sodium hydrogencarbonate, water, and brine, and dried over magnesium sulfate and treated with activated charcoal. After filtration, the filtrate was evaporated in vacuo. The residue was subjected to column chromatography on silica gel (50 g) and eluted with a mixture of methanol and chloroform. The fractions containing the object compound were combined and evaporated in vacuo, and the resulting residue was dissolved in ethanol, and added an ethanol solution of hydrogen chloride. The mixture was evaporated in vacuo, and the resulting precipitate was collected by filtration and washed with diethyl ether, to give 4,5-bis(4-methoxyphenyl)-2-(3-pyridylacetylaminomethyl)-thiazole hydrochloride (0.52 g).

reactant | 2-Aminomethyl-4,5-bis(4-methoxyphenyl)thiazole hydrochloride | 1.00 g | Cl.NCC=1SC(=C(N1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | 1-(3-dimethylaminopropyl)-3ethylcarbodiimide hydrochloride | 0.64 g | Cl.CN(CCCN=C=NCC)C
reactant | 3-pyridylacetic acid hydrochloride | 0.52 g | Cl.N1=CC(=CC=C1)CC(=O)O
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4,5-bis(4-methoxyphenyl)-2-(3-pyridylacetylaminomethyl)-thiazole hydrochloride | 0.52 g | Cl.COC1=CC=C(C=C1)C=1N=C(SC1C1=CC=C(C=C1)OC)CNC(CC=1C=NC=CC1)=O | InChI=1S/C25H23N3O3S.ClH/c1-30-20-9-5-18(6-10-20)24-25(19-7-11-21(31-2)12-8-19)32-23(28-24)16-27-22(29)14-17-4-3-13-26-15-17;/h3-13,15H,14,16H2,1-2H3,(H,27,29);1H
